US05747498
(3-Ethynyl-phenyl)-(6-methoxy-quinazolin-4-yl)-amine Hydrochloride
A 25 mM solution of 6-methoxy-3H-quinazolin-4-one in 1,2-dichloroethane was added to polymer-supported triphenylphosphine (from Fluka, about 3 mmol P/g polymer; 2.5 mol equiv) and carbon tetrachloride (100 mole equiv). The reaction mixture was heated, with shaking, at 60° C. for 21 hours, cooled to 22° C., and a 30 mM solution of the 3-ethynylaniline (1.5 mole equiv) in t-butanol was added. The resulting mixture was then heated, with shaking, at 60° C. for 18 hours followed by cooling to 22° C. The polymer was filtered off and washed twice with methanol. The methanol washes were added to the filtrate and the solution was concentrated in vacuo to afford the title product (73%; LC-MS: 276 (MH+); anal. RP18-HPLC RT: 5.82 min). For these cases the analytical RP18-HPLC system consisted of a Waters 717 (trademark) autosampler, Waters 996 Photodiode Array Detector (trademark), and Waters 600 quarternary solvent delivery system, and was controlled by Millennium (trademark) software. The aliquots of samples were chromatographed using a linear gradient of 0% to 100% acetonitrile/0.2M ammonium acetate buffer (pH 4.5) over ten minutes at a flow rate of 3 ml/min. using a Perkin-Elmer Pecosphere (trademark) (3 mm×3 cm) C18 column.

reactant | 6-methoxy-3H-quinazolin-4-one | COC=1C=C2C(NC=NC2=CC1)=O | C9H8N2O2
reactant | triphenylphosphine | about 3 mmol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 100 mole | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | 3-ethynylaniline | 1.5 mole | C(#C)C=1C=C(N)C=CC1 | C8H7N
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
solvent | t-butanol | C(C)(C)(C)O | C4H10O
product | (3-Ethynyl-phenyl)-(6-methoxy-quinazolin-4-yl)-amine Hydrochloride | 73% | Cl.C(#C)C=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)OC | InChI=1S/C17H13N3O.ClH/c1-3-12-5-4-6-13(9-12)20-17-15-10-14(21-2)7-8-16(15)18-11-19-17;/h1,4-11H,2H3,(H,18,19,20);1H
